US08748627B2
2-(1-methyl-prop-2-ynyl)-isoindole-1,3-dione
To a solution of but-3-yn-2-ol (13.3 g, 0.19 mol), phthalimide (28.5 g, 0.19 mol) and triphenylphosphine (76.0 g, 0.28 mol) in tetrahydrofuran was added diethyl azodicarboxylate (123.8 g, 0.28 mol, 310 mL of 40% toluene solution) drop wise at room temperature. The reaction mixture was stirred for 16 h. Solvent was removed and the residue was treated with 600 mL mixture of ether and hexane (1:1). The precipitate was filtered off and the filtrate was concentrated to give 90 g of the crude. The crude was then purified on silica gel eluting with 15% ethyl acetate in hexane to give 24 g of the title compound as a white solid (63% yield), 1H NMR (300 MHz, CDCl3) δ ppm 1.72 (d, J=6.99 Hz, 3H) 2.35 (d, J=2.21 Hz, 1H) 5.22 (dt, J=14.34, 7.35, 2.57 Hz, 1H) 7.68-7.78 (m, 2H) 7.82-7.90 (m, 2H), MS (ESI), M/Z: 200.0 (M+H)+.

reactant | but-3-yn-2-ol | 0.19 mol, 13.3 g | CC(C#C)O | C4H6O
reactant | phthalimide | 0.19 mol, 28.5 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | triphenylphosphine | 0.28 mol, 76.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.28 mol, 310 mL, 123.8 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-(1-methyl-prop-2-ynyl)-isoindole-1,3-dione | 24 g, 63% yield | CC(C#C)N1C(C2=CC=CC=C2C1=O)=O | C12H9NO2
